US04316042
(c) 2-(N-Isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluorobenzophenone
20 g 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluoro-2,5-dihydrobenzophenone and 100 g manganese dioxide in 200 ml chloroform are stirred 4 hours under reflux. The reaction mixture is cooled, filtered and evaporated in vacuo. The residue is recrystallised from hexane to obtain the heading compound, m.p. 92°-94° C.

reactant | 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluoro-2,5-dihydrobenzophenone | 20 g | C(C)(C)N(C(=O)OC)C1C(C(=O)C2=CC=C(C=C2)F)=CCC(=C1)C | C19H22FNO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 100 g | [O-2].[O-2].[Mn+4]
product | 2-(N-Isopropyl-N-carbomethoxyamino)-4-methyl-4'-fluorobenzophenone | C(C)(C)N(C(=O)OC)C1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1)C | C19H20FNO3
